US05728907
One mole of n-nonadecyl-n-tetradecyl-n-decylcarbinol is added to 0.2 liters of methylene chloride and 0.32 moles calcium chloride. Approximately 1.5 moles of HCl gas is slowly bubbled through the solution. The product mixture is then washed with 1 liter of a 10% sodium carbonate solution. The organic layer is dried with magnesium sulfate and the methylene chloride is evaporated off to give n-nonadecyl-n-tetradecyl-n-decylmethylchloride.

reactant | n-nonadecyl-n-tetradecyl-n-decylcarbinol | One mole | C(CCCCCCCCCCCCCCCCCC)C(O)(CCCCCCCCCC)CCCCCCCCCCCCCC | C44H90O
reactant | calcium chloride | 0.32 moles | [Cl-].[Ca+2].[Cl-]
reactant | HCl | 1.5 moles | Cl | ClH
solvent | methylene chloride | 0.2 liters | C(Cl)Cl | CH2Cl2
product | n-nonadecyl-n-tetradecyl-n-decylmethylchloride | C(CCCCCCCCCCCCCCCCCC)C(CCCCCCCCCC)(CCCCCCCCCCCCCC)Cl | C44H89Cl
